US04855301
(A) 1,4-Dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester
A reaction mixture containing 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, 1-methylethyl ester (10.0 g, 36.0 mmol), sodium bicarbonate (8.40 g, 108 mmol), and O-methylpseudourea hydrogen sulfate (8.06 g, 46.8 mmol) in dimethylformamide (54 ml) was heated at 60° C. under argon for about 21/2 days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water (six times) and saturated sodium chloride, dried (potassium carbonate) and evaporated. The residue was passed through a short pad of silica gel and crystallized from isopropyl ether/hexanes to give the title compound as yellow crystals (8.04 g).

reactant | 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, 1-methylethyl ester | 36.0 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OC(C)C)C(C)=O | C14H15NO5
reactant | sodium bicarbonate | 108 mmol, 8.40 g | C([O-])(O)=O.[Na+]
reactant | O-methylpseudourea hydrogen sulfate | 46.8 mmol, 8.06 g | S(=O)(=O)(O)O.COC(N)=N
solvent | dimethylformamide | 54 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,4-Dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester | 8.04 g | COC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C16H19N3O5
